US05104889
Production of 3,5-di-tert-butyl-4-hydroxyphenyl dithiocarbamate
3,5-Di-tert-butyl-4-hydroxyphenyl thiocyanate (8.7 g) and 0.3 g of triethylamine were dissolved in 80 ml of diethyl ether, and hydrogen sulfide was blown into the solution at room temperature over 4.5 hours. The reaction mixture was concentrated, and the crude product thus obtained was washed with diethyl ether to give 7.5 g of the desired compound as a colorless solid.

reactant | 3,5-Di-tert-butyl-4-hydroxyphenyl thiocyanate | 8.7 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC#N | C15H21NOS
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 3,5-di-tert-butyl-4-hydroxyphenyl dithiocarbamate | 7.5 g | C(N)(SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=S | C15H23NOS2
